US07148229B2
To a solution of crude 8-(4-amino-benzyl)-1,3-dimethyl-3,7-dihydro-purine-2,6-dione (0.2 mmol) in pyridine (2 mL) at 0° C. was added 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride (0.2 mmol) and the mixture left to stir and warm slowly to ambient temperature overnight. The reaction mixture was poured into ethyl acetate, washed with 1M aqueous hydrochloric acid until all pyridine was removed from the organic phase and the combined aqueous washings back extracted with ethyl acetate. The combined organic layers were dried and concentrated in vacuo to give an orange solid. Purified by trituration with warm acetonitrile to give 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonic acid {4-[1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide as a pale orange solid (51%); EI-HRMS m/e calculated for C19H20ClN7O4S (M+) 477.0986, found 477.0994.

reactant | 8-(4-amino-benzyl)-1,3-dimethyl-3,7-dihydro-purine-2,6-dione | 0.2 mmol | NC1=CC=C(CC2=NC=3N(C(N(C(C3N2)=O)C)=O)C)C=C1 | C14H15N5O2
reactant | 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride | 0.2 mmol | ClC1=C(C(=NN1C)C)S(=O)(=O)Cl | C5H6Cl2N2O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonic acid {4-[1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide | 51% | CN1C(N(C=2N=C(NC2C1=O)CC1=CC=C(C=C1)NS(=O)(=O)C=1C(=NN(C1Cl)C)C)C)=O | C19H20ClN7O4S
